US09375000B2
To the suspension of methyl triphenylphosphonium iodide (1.92 g) in tetrahydrofuran (12 ml) was added potassium tert-butoxide (0.53 g) slowly at argon atomosphere below 0° C. on ice/water bath. The reaction mixture turned to yellow and stirred for 0.5 h. To the mixture was added a solution of 1-(3,5-dichloro-2,4-difluorophenyl)-2,2,2-trifluoroethanone (1.15 g) in tetrahydrofuran (3 ml) dropwise on ice/water bath. After addition, the reaction mixture was warmed to room temperature and stirred over night. The reaction mixture was diluted with pentane and water. The organic phase was separated and washed with water and dried over MgSO4. The crude residue was purified on silica-gel column chromatography (eluent: n-hexane) to give 1,3-dichloro-2,4-difluoro-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene (0.80 g).

reactant | methyl triphenylphosphonium iodide | 1.92 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 0.53 g | CC(C)([O-])C.[K+]
reactant | 1-(3,5-dichloro-2,4-difluorophenyl)-2,2,2-trifluoroethanone | 1.15 g | ClC=1C(=C(C=C(C1F)Cl)C(C(F)(F)F)=O)F | C8HCl2F5O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | water | O | H2O
product | 1,3-dichloro-2,4-difluoro-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene | 0.80 g | ClC1=C(C(=C(C(=C1)C(=C)C(F)(F)F)F)Cl)F | C9H3Cl2F5
